Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Elevated LFTs, Septic Joint
 
Major Surgical or Invasive Procedure:
___: ERCP
___: Orthopedic I&D and Liner Exchange

 
History of Present Illness:
Mr. ___ is a ___ year old man with right hip osteoarthritis 
s/p
total hip replacement ___, who presents as a transfer from ___ with E coli bacteremia, septic right hip joint and
transaminitis. 

The patient was admitted to ___ on ___ with nausea,
vomiting and weakness. He was septic with lactate to 4.6 and
admitted to the ICU. It is unclear if he ever required pressors.
He was found to have sepsis from pyelonephritis secondary to
right ureteral calculus with obstructive uropathy. Imaging at
this time showed right hydronephrosis and creatinine was 2.7. He
underwent a cystoscopy on ___ with stent placement; creatinine
downtrended to 0.___lood culturs grew
pan-sensitive E. coli, and he was transitioned from IV
ceftriaxone to oral cefpodoxime. 

He initially improved, and then began to decline again with
rising WBC (37 at admission, down to 17.2 then up to 27) and new
right hip pain. He notably also had rising LFTs: admission Tbili
1.5, Dbili 0.5, ALP 181, ALT 32, AST 35; uptrended to Tbili 2.5,
Dbili 2.3, ALP 471, ALT 57, AST 51. He had a liver ___ on ___ 
and
___ ___, both of which were unremarkable. 

His hip pain was preventing him from putting full weight on it,
and he underwent a joint aspiration on ___ that drained frank
pus. At this time oral cefpodoxime was changed back to IV
ceftriaxone. The patient was transferred to ___ for further
evaluation of septic joint and transaminitis. 

Upon arrival to ___, the patient shares he is tired. He also
reports that he has been having hiccups, requiring thorazine at
___. He has never had hiccups before this. 

 
Past Medical History:
R hip osteoarthritis s/p THA in ___
 
Social History:
___
Family History:
He said he is unsure at this time, but doesn't think he has any
pertinent family history.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS: 98.1 ___ 18 95RA 
GENERAL: NAD but does appear tired and sweaty; appears younger
than stated age
HEENT: unable to appreciate scleral icterus, mildly dry mucosa 
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: right hip tender to palpation but no visible
erythema or swelling 
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, but has word finding difficulty (for example, was
trying to say his wife ___ but called her his husband, and
___ remember what "niece" was called). No asterixis. 

DISCHARGE PHYSICAL EXAM:
Vitals: T 98.0  BP 119/61   HR 91  RR 18 SAO2:98%RA   
GEN: Alert and oriented, lying in bed in no significant
discomfort, NAD. Actively hiccupping.
HEENT: NCAT. Sclera anicteric. PERRL.
EOMI. Mucous membranes dry.  
NECK: No cervical or supraclavicular lymphadenopathy. No JVD
appreciated.  
CV: NR, RR. Normal S1 and S2. No murmurs, rubs or gallops.   
Lungs: Breathing comfortably. Clear to auscultation anteriorly
bilaterally.  
Abdomen: Nondistended, normoactive bowel sounds. Nontender, no
rebound or guarding.     
EXT: no edema or cyanosis. Distal pulses palpable. No asterixis.
R hip with surgical dressing and ice pack. ROM limited. ROM
limited by surgical hardware and R hip soreness. Erythema and 
focal induration posterolateral to incision underneath dressing. 
R heel with 2cm blister.
Neuro: A&Ox3. CN ___ intact. No pronator drift. ___ Strength in
UEs and LEs. Sensation intact to light touch in LEs.
 
Pertinent Results:
LABORATORY DATA
___ 01:08AM BLOOD WBC-24.9* RBC-3.40* Hgb-10.4* Hct-30.8* 
MCV-91 MCH-30.6 MCHC-33.8 RDW-14.6 RDWSD-47.9* Plt ___
___ 07:15AM BLOOD Neuts-87* Bands-0 Lymphs-7* Monos-6 Eos-0 
Baso-0 ___ Myelos-0 AbsNeut-19.31* AbsLymp-1.55 
AbsMono-1.33* AbsEos-0.00* AbsBaso-0.00*
___ 07:15AM BLOOD Hypochr-NORMAL Anisocy-NORMAL Poiklo-1+* 
Macrocy-NORMAL Microcy-NORMAL Polychr-1+* Ovalocy-OCCASIONAL 
Target-1+* Schisto-OCCASIONAL
___ 01:08AM BLOOD ___ PTT-24.4* ___
___ 01:08AM BLOOD Ret Aut-2.3* Abs Ret-0.08
___ 07:15AM BLOOD ___
___ 01:08AM BLOOD Glucose-115* UreaN-22* Creat-0.8 Na-138 
K-4.7 Cl-100 HCO3-26 AnGap-12
___ 01:08AM BLOOD ALT-49* AST-42* LD(LDH)-183 AlkPhos-454* 
TotBili-3.2*
___ 01:08AM BLOOD Lipase-35
___ 01:08AM BLOOD Albumin-2.3* Calcium-7.7* Phos-3.2 Mg-1.9 
Iron-24*
___ 01:08AM BLOOD calTIBC-211* Hapto-324* Ferritn-1361* 
TRF-162*
___ 07:15AM BLOOD CRP-256.6*
___ 04:45PM BLOOD WBC-11.2* RBC-3.00*# Hgb-9.3*# Hct-28.2*# 
MCV-94 MCH-31.0 MCHC-33.0 RDW-13.8 RDWSD-46.9* Plt ___
___ 04:45PM BLOOD Plt ___
___ 07:15AM BLOOD Glucose-88 UreaN-19 Creat-0.7 Na-142 
K-4.3 Cl-104 HCO3-26 AnGap-12
___ 07:15AM BLOOD ALT-23 AST-26 AlkPhos-256* TotBili-1.3
___ 07:15AM BLOOD Lipase-21
___ 07:15AM BLOOD Calcium-7.8* Phos-2.8 Mg-2.1

From ___
ceruloplasmin - 33
alpha-1-antitrypsin 272
hep A surface Ab - reactive, 
Hep A IgM - nonreactive
HBsAg nonreactive
HBsAb - nonreactive
HBcAb nonreactive
hep C Ab - nonreactiveImaging: Reviewed in OMR

MICROBIOLOGY

___ 06:17AM URINE Color-Yellow Appear-Clear Sp ___
___ 02:12PM URINE Color-Amber* Appear-Cloudy* Sp ___
___ 06:17AM URINE Blood-TR* Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-6.5 Leuks-SM*
___ 02:12PM URINE Blood-MOD* Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-4* pH-6.0 Leuks-LG*
___ 06:17AM URINE RBC-5* WBC-8* Bacteri-NONE Yeast-NONE 
Epi-1
___ 02:12PM URINE RBC-89* WBC-49* Bacteri-FEW* Yeast-NONE 
Epi-0
___ 02:12PM URINE AmorphX-OCC*

- ___ U/A cloudy, Lg Leuk, neg nitrites, Mod blood, 89 RBC, 49
WBC, 30 protein, 4 Urobili
- ___ UCX: YEAST.    10,000-100,000 CFU/mL.   
- ___ BCx NGTD
- ___ surgical R hip fluid:E. Coli, PMNs. 
- ___ UCX: no growth final

Micro reviewed in ___ Records, significant for:
- UCX ___ ___: E. Coli, pan-sensitive final
- BCX ___ ___: ___ bottles w E. Coli, pan-sensitive final
- R hip aspirate ___ ___: E. Coli, sensitive to CTX final

RADIOLOGY
Bilat lower extremity veins U/S ___
No evidence of deep venous thrombosis in the right or left lower
extremity veins. 

CTA Chest ___
IMPRESSION:  
1. No evidence of pulmonary embolism or aortic abnormality. 
2. Calcified and noncalcified pleural plaques, likely relates to
remote exposure of asbestosis. 
3. Subtle upper lobe ground-glass opacities, likely atelectasis. 

4. Mild left subclavian artery stenosis. 
5. Small hiatal hernia. 

___ ERCP 
The scout film was normal.  
•The major papilla was successfully cannulated using a clevecut
sphincterotome.  
•Contrast was injected and there was brisk flow through the
ducts. 
•Contrast extended to the entire biliary tree.  
•Contrast injection revealed no filling defects.  
•However, given history of sepsis, jaundice and elevated LFT's a
___ 7CM stent was placed in the CBD.  
•The final occlusion cholangiogram showed no evidence of filling
defects in the CBD.  
•Excellent bile and contrast drainage was seen endoscopically 
and
fluoroscopically.  
•I supervised the acquisition and interpretation of the
fluoroscopic images.  
•The quality of the fluoroscopic images was good  
•Otherwise normal ercp to third part of the duodenum

Radiology reviewed in ___ Records, significant for:
- ___ CT ___
1. 3 x 4 mm distal right ureteral calculus with associated
mild/moderate obstructive uropathy proximal to the stone.
2. Small pleural effusions and bilateral lower lobe
consolidation.

- ___ ___ abdominal ultrasound exam. No evidence of
hydronephrosis on either side.

- ___ ___ pleural effusions. No evidence for biliary dilatation
or obstruction, or gallbladder inflammation. No concerning
hepatic abnormality identified. 

- ___ Right hip arthrocentesis ___ of right hip prosthesis demonstrates purulent
material consistent with septic joint.

- ___ CXR
In comparison with the study of ___, there has been
placement of right subclavian PICC line that extends about to 
the
level of the cavoatrial junction. Continued enlargement of the
cardiac silhouette with tortuosity of the aorta and elevation of
pulmonary venous pressure.  The left hemidiaphragm is now poorly
seen, consistent with volume loss in the lower lobe and pleural
effusion. Given the changes described above, it would be very
difficult to unequivocally exclude superimposed pneumonia in the
appropriate clinical setting, especially 
in the absence of a lateral view. 

 
Brief Hospital Course:
===============
PATIENT SUMMARY
===============
Mr. ___ is a ___ old man with a history of R hip 
osteoarthritis s/p total hip replacement ___, who presented s/p 
cystoscopy and ureteral stent to ___ with urosepsis and E 
Coli bacteremia c/b septic R hip and elevated liver function 
tests, transferred for further management, now on ceftriaxone 
s/p unremarkable ERCP and POD#5 from R hip I&D + liner exchange.

============
ACUTE ISSUES
============

#Septic joint 
#E coli bacteremia 
Patient admitted ___ to ___ with septic shock (renal 
failure, elevated lactate, thrombocytopenia) secondary to E. 
Coli bacteremia, with likely source of R ureteral calculus and 
pyelonephritis. After improving at OSH on IV ceftriaxone s/p 
cystoscopy and R ureteral stent, he then decompensated again and 
was found to have a right septic hip joint ___ E coli urosepsis, 
high WBC and elevated LFTs (esp. Tbili 3.2, AP 454), and 
transferred to ___. Ortho consulted and performed R hip I&D 
with head and liner exchange ___. Afebrile, downtrending WBC. 
ID consulted and recommended 6 weeks of IV ABx (ceftriaxone 2g 
q24h). PICC placed. ___ consulted and recommended home ___. 
Continued on Lovenox 40mg sc qd for ___fter 
orthopedic procedure. No positive blood cultures at ___, but 
surgical wound culture grew E.Coli susceptible to Ceftriaxone, 
resistant to amoxicillin - consistent with blood cultures from 
___. Small induration and erythema near incision site on day 
of discharge. Attempted drainage, but no pus to drain. Started 
on po Clindamycin w Ortho f/u on ___.

#Elevated LFTs 
At OSH Tbili 2.5 (Dbili 2.3), ALP 471 and AST/ALT in ___ prior 
to transfer. Upon transfer Tbili 3.5, ALP 454 and AST/ALT in 
___. S/p unremarkable ___ and ___ ultrasound at ___. Now s/p 
ERCP that was unremarkable, but CBD stent was placed. LFTs 
downtrended. Ruled likely due to cholestasis. Hep serologies 
negative. CBD stent will need to be removed in 3mo.

#Anemia 
Normocytic anemia worsening since admission. Reticulocyte index 
low, reduced TIBC, elevated ferritin. Likely acute infection + 
anemia of chronic disease along with hemodilution in post-op 
period. Stabilized. Needs further w/u outpatient and possible 
iron repletion if persistent. On day of planned discharge, 
became dyspneic with exertion and tachycardic. Initially 
concerned for PE, but negative CTA and LENNI. Ruled symptomatic 
anemia and transfused 1U pRBC w good response.

#Hiccups
Bothersome hiccups began after ureteral stent placement. Had 
stopped briefly after I&D but since recurred. Unclear etiology, 
possibly anesthesia-related. Somewhat responsive to thorazine 
and baclofen. Started on tesalon perles.

#Acute kidney injury, resolved
Cr was 3 on admission to OSH; now down to 0.8. 

#Demand Ischemia
Troponin T was 0.02 on admission to ___ to 0.08, then 
0.06 on ___. Likely demand ischemia in setting of sepsis.

#Pressure Ulcer
Pressure ulcer developed on R heel. Wound consulted and dressing 
applied.

==============
CHRONIC ISSUES
==============
No chronic medical issues

===================
TRANSITIONAL ISSUES
===================
[ ] Patient will continue on CTX 2g q24h through ___
[ ] Patient will continue Clindamycin 300mg q6h through ___
[ ] Patient will continue Lovenox 40mg qd SC through ___ 
(4wks post-surgically)
[ ] f/u pending cultures 
[ ] PCP: continue to assess anemia. Received 1U for symptomatic 
anemia the day of discharge. Labs not consistent with 
iron-deficiency, but could re-assess after acute illness and 
consider iron supplementation
[ ] Patient had observed apneic episodes while sleeping. Needs 
sleep study for further evaluation of obstructive sleep apnea. 
Also associated with nighttime hypertension.
[ ] Common Bile Duct stent placed ___ during ERCP. Needs 
removal in 3 months
[ ] Urologist ___: surgery to have stone & stent 
removed
[ ] Orthopedics: will call to schedule f/u on ___
[ ] Consider Hep B immunization

=====================
#CODE: Full (presumed) 
#CONTACT: ___. Wife. ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild  
2.  Baclofen 10 mg PO BID:PRN hiccups 
RX *baclofen 10 mg 1 tablet(s) by mouth BID Prn Disp #*30 Tablet 
Refills:*0 
3.  Benzonatate 100 mg PO TID 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times a day 
Disp #*60 Capsule Refills:*0 
4.  CefTRIAXone 2 gm IV Q24H 
6 week course of IV ceftriaxone (end date: ___  
RX *ceftriaxone in dextrose,iso-os 2 gram/50 mL 2 g IV q24h Disp 
#*39 Intravenous Bag Refills:*0 
5.  Clindamycin 300 mg PO Q6H Duration: 28 Doses 
RX *clindamycin HCl 300 mg 1 capsule(s) by mouth every six (6) 
hours Disp #*28 Capsule Refills:*0 
6.  Enoxaparin Sodium 40 mg SC Q24H 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 40 mg/0.4 mL 40 mg SC once a day Disp #*20 
Syringe Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
- Sepsis
- Urinary infection due to nephrolithiasis
- Septic Right hip in setting of prosthesis
- Anemia

Secondary:
- Elevated Liver function tests
- Hiccups
- Acute Kidney Injury
- Demand Ischemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital as a transfer due to infection 
of your R hip, which developed after your infected kidney stone 
caused a bloodstream infection. While you were here, we 
performed an ERCP (where GI looked at your gallbladder and 
pancreas) which showed no clear reason for your liver labs to be 
abnormal. They placed a stent to ensure the duct stayed open and 
your labs improved. The orthopedic surgeons also performed a 
procedure to drain and replace the lining of your hip. We 
treated you with antibiotics. Your pain, fever, and labs all 
improved.

The evening you were supposed to be going home, you had some 
shortness of breath with exercise and a fast heart rate. Because 
of your surgery, we were concerned you might have had a blood 
clot and we performed a CT of your chest and Ultrasound of your 
leg to look. Fortunately there was no blood clot or other 
finding concerning in your lungs. We believe you had these 
symptoms from your anemia. We gave you a unit of blood and you 
improved significantly.

The last day of your hospitalization, you had some redness, pain 
and swelling near your incision site. The orthopedic doctors 
tried to ___ it, but there wasn't any pus to drain. We started 
you on an oral antibiotic and they would like to see you in 
clinic on ___. You should be called about setting up an 
appointment. Please call ___ if you do not hear from 
anybody.

When you get home, you will need to follow up with your 
urologist about the stent to get surgery to have it removed. You 
will need to continue antibiotics for 6 weeks from the date of 
surgery - ___ until ___. Because of all these 
antibiotics, we would like you to take a probiotic.

You need to continue the Lovenox shots once daily for 4 weeks 
from the date of surgery. The prescription has been called in to 
your pharmacy.

Please call your PCP or return if you have severe fever, pain, 
or other concerning symptoms.

Please follow up with your primary care doctor.

It was a pleasure caring for you.

Sincerely,

Your ___ team
 
Followup Instructions:
___